US05556977
Sodium hydride (60% dispersion in mineral oil, 0.4 g) was added to a stirred suspension of 4-[4-(4-pyridyl)piperazin-1-yl]phenol (2.55 g) in DMF (25 ml) and the mixture stirred for 20 minutes at room temperature. Allyl chloride (0.756 g) was added dropwise and stirring continued for 20 hours. Ice-water (75 ml) was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water and brine, dried (MgSO4) and evaporated. The residue was triturated with hexane and filtered to give 4-[4-(4-pyridyl)piperazin-1-yl]phenol allyl ether (2.5 g) as a solid; NMR(d6DMSO) δ8.18(2H,dd), 6.8-7.0(6H,m), 5.92-6.13(1H,m), 5.2-5.45(2H,m), 4.5(2H,m), 3.45(4H,m), 3.11(4H,m).

reactant | Sodium hydride | 0.4 g | [H-].[Na+]
reactant | 4-[4-(4-pyridyl)piperazin-1-yl]phenol | 2.55 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C15H17N3O
reactant | Allyl chloride | 0.756 g | C(C=C)Cl | C3H5Cl
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-[4-(4-pyridyl)piperazin-1-yl]phenol allyl ether | 2.5 g | C(C=C)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C18H21N3O
